US04990515
A suspension of 6 g of 8-chloro-3-ethoxycarbonyl-1-ethoxymethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 120 cm3 of water, 120 cm3 of ethanol and 47.5 cm3 of 2N aqueous potassium hydroxide solution is heated, with stirring, at a temperature close to 75° C. for 2 hours and a half. A small amount of insoluble matter is removed by filtering at the same temperature. After cooling to about 20° C., 6 cm3 of acetic acid are added to the filtrate. The precipitate obtained is drained, washed with 3 times 20 cm3 of water and recrystallized from 60 cm3 of dimethylformamide. 4 g of 8-chloro-1-ethoxymethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid which decomposes at 285° C.

reactant | 8-chloro-3-ethoxycarbonyl-1-ethoxymethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 6 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)COCC)C1)F | C18H16ClFN2O4
solvent | water | 120 cm3 | O | H2O
solvent | ethanol | 120 cm3 | C(C)O | C2H6O
solvent | potassium hydroxide | 2N, 47.5 cm3 | [OH-].[K+]
product | 8-chloro-1-ethoxymethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 4 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)COCC)C1)F | C16H12ClFN2O4
